US06150373
13.6 g (43 mmol) of crude 5-(2,6-dichloroanilinomethyl)-2-methylthio-3H-pyrimidin-4-one was treated with 120 ml of phosphorus oxychloride and the mixture heated at 100° C. for 15 minutes then cooled. The mixture was evaporated and cautiously partitioned between 200 ml of ethyl acetate and 200 ml of water. The organic phase was dried over magnesium sulfate, filtered and evaporated. The product was purified by flash chromatography on silica gel eluting with diethyl ether/isohexane in a ratio of 1:9 to give 3.2 g (22%) of 4-chloro-5-(2,6-dichloroanilinomethyl)-2-methylthiopyrimidine as a pale yellow oil. [Mass spectrum (ESI) MH+ =334].

reactant | 5-(2,6-dichloroanilinomethyl)-2-methylthio-3H-pyrimidin-4-one | 43 mmol, 13.6 g | ClC1=C(NCC=2C(NC(=NC2)SC)=O)C(=CC=C1)Cl | C12H11Cl2N3OS
reactant | phosphorus oxychloride | 120 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-5-(2,6-dichloroanilinomethyl)-2-methylthiopyrimidine | 3.2 g, 22% | ClC1=NC(=NC=C1CNC1=C(C=CC=C1Cl)Cl)SC | C12H10Cl3N3S
